US08957205B2
N-[[1-[(2-Benzothienylcarbonyl)amino]cyclohexyl]carbonyl]-L-methioninol
284 mg (2.1 mmol) of L-methioninol was added to a solution of 500 mg (1.75 mmol) of 2-(2-benzothienyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one in 3 ml of N,N-dimethylformamide, and the mixture was stirred overnight. Water was slowly added to the mixture and the precipitated crystal was collected by filtration. The obtained crystal was dried under reduced pressure to give 722 mg (98%) of the title compound.

reactant | L-methioninol | 2.1 mmol, 284 mg | N[C@@H](CCSC)CO | C5H13NOS
reactant | 2-(2-benzothienyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 1.75 mmol, 500 mg | S1C(=CC2=C1C=CC=C2)C2=NC1(C(O2)=O)CCCCC1 | C16H15NO2S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-[[1-[(2-Benzothienylcarbonyl)amino]cyclohexyl]carbonyl]-L-methioninol | 722 mg, 98% | S1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)N[C@@H](CCSC)CO | C21H28N2O3S2
